US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-BIPHENYL-4-YL-ETHYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (2-biphenyl-4-yl-ethyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (63.2% yield). 1H NMR (500 MHz, CDCl3) δ 8.07, 7.98, 7.76, 7.64, 7.60-7.52, 7.44, 7.38-7.30, 7.00, 4.06, 3.88, 3.82-3.68, 3.36, 2.98.

reactant | 6-chloropyridazine-3-carboxylic acid (2-biphenyl-4-yl-ethyl)amide | C1(=CC=C(C=C1)CCNC(=O)C=1N=NC(=CC1)Cl)C1=CC=CC=C1 | C19H16ClN3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-BIPHENYL-4-YL-ETHYL)AMIDE | C1(=CC=C(C=C1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C31H28F3N5O2
